US07915281B2
Catalytic 5% platinum on carbon (150 mg) was added to a suspension of N-[(5-butylisoxazol-3-yl)methyl]-3-nitroquinolin-4-amine (1.33 g, 4.08 mmol) in acetonitrile (50 mL), and the mixture was placed under hydrogen pressure (40 psi, 2.8×105 Pa) for six hours. The mixture was filtered through a layer of CELITE filter agent, and the filtrate was concentrated under reduced pressure to provide 1.19 g of N4-[(5-butylisoxazol-3-yl)methyl]quinoline-3,4-diamine.

reactant | N-[(5-butylisoxazol-3-yl)methyl]-3-nitroquinolin-4-amine | 4.08 mmol, 1.33 g | C(CCC)C1=CC(=NO1)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C17H18N4O3
catalyst | platinum on carbon | 150 mg | [Pt] | Pt
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N4-[(5-butylisoxazol-3-yl)methyl]quinoline-3,4-diamine | 1.19 g | C(CCC)C1=CC(=NO1)CNC1=C(C=NC2=CC=CC=C12)N | C17H20N4O
